US07569592B2
A solution of 2-(4bromo-1H-pyrazol-1-yl)pyridine (0.446 g, 2.0 mmol), 3-cyanophenylboronic acid (0.302 g, 2.0 mmol), potassium carbonate (0.552 g, 4.0 mmol) in a mixture of ethylene glycol dimethyl ether (20 mL) and water (4 mL) was degassed by argon bubbling for 15 min., then tetrakis(triphenylphosphine)palladium(0) (20 mg, 0.017 mmol) was added and degassing continued a further 15 min. The resulting solution was stirred at 70° C. for 14 h, whereupon H2O (30 mL) was added, then extracted with EtOAc (3×30 mL) and the combined extracts washed with brine. The organic phase was dried over Na2SO4 and concentrated in vacuo. The crude residue was chromatographed on silica gel eluting with EtOAc:hexane (2:3) to afford a white solid which was recrystallized from EtOAc/Hexane give 3-(1-pyridin-2-yl-1H-pyrazol-4-yl)benzonitrile as a white solid. MP=160-161° C. 1H NMR (CD3Cl, 300 MHz) δ 8.88 (s, 1H), 8.45 (d, 1H), 8.03 (s, 1H), 8.01 (d, 1H), 7.87 (d, 1H), 7.86 (s, 1H), 7.81 (d, 1H), 7.57˜7.48 (m, 2H), 7.25 (dd, 1H). MS (ESI) 247.1 (M++H).

reactant | 2-(4bromo-1H-pyrazol-1-yl)pyridine | 2.0 mmol, 0.446 g | BrC=1C=NN(C1)C1=NC=CC=C1 | C8H6BrN3
reactant | 3-cyanophenylboronic acid | 2.0 mmol, 0.302 g | C(#N)C=1C=C(C=CC1)B(O)O | C7H6BNO2
reactant | potassium carbonate | 4.0 mmol, 0.552 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethylene glycol dimethyl ether | 20 mL | COCCOC | C4H10O2
solvent | water | 4 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.017 mmol, 20 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(1-pyridin-2-yl-1H-pyrazol-4-yl)benzonitrile | N1=C(C=CC=C1)N1N=CC(=C1)C=1C=C(C#N)C=CC1 | C15H10N4
